US06025375
To a solution of 3-methoxybenzylmagnesium chloride (19.8 mole) in tetrahydrofuran (20 ml) was added a mixture of 2-cyclohexen-1-one (1.9 g) and trimethylsilyl chloride (5.8 ml) in tetrahydrofuran (30 ml) at -78° C. under N2. The mixture was stirred for 1 hour at 0° C. The reaction mixture was poured into a mixture of ethyl acetate and 1N-hydrochloric acid and the organic layer was washed with saturated sodium bicarbonate aqueous solution and brine. The combined organic extracts were concentrated and the residue was purified by column chromatography on silica gel to give 3-(3-methoxybenzyl)cyclohexanone (2.12 g).

reactant | 3-methoxybenzylmagnesium chloride | 19.8 mole | COC=1C=C(C[Mg]Cl)C=CC1
reactant | 2-cyclohexen-1-one | 1.9 g | C1(C=CCCC1)=O | C6H8O
reactant | trimethylsilyl chloride | 5.8 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-methoxybenzyl)cyclohexanone | 2.12 g | COC=1C=C(CC2CC(CCC2)=O)C=CC1 | C14H18O2
